US05166151
Preparation of 5(R,S)-(2(S)-tert-butoxycarbonylamino-3-phenylpropanoylamino)-7-phenyl-5H-pyrimido[5,4-d]-[2]benzazepine
Crude 5(R,S)-amino-7-phenyl-5H-pyrimido[5,4-d][2]benzazepine (1.37 g), Boc-L-phenylalanine (1.37 g, 5.17 mmole), 1-hydroxybenzotriazole (HBT) (0.70 g, 5.17 mmole), and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDC) (0.99 g, 5.17 mmole) are combined in DMF (30 ml) and stirred at room temperature. The pH of the mixture is adjusted to 9.5 with triethylamine. After about 1/2 hour, the DMF is removed in vacuo and the residue is partitioned between methylene chloride and 10% citric acid solution. The layers are separated and the organic phase is washed with saturated NaHCO3 solution, water and brine, then dried over Na2SO4, filtered, and evaporated to dryness in vacuo. The residue is chromatographed on silica gel and the combined product fractions evaporated to dryness in vacuo to give the title compound as a mixture of diastereomers.

reactant | 5(R,S)-amino-7-phenyl-5H-pyrimido[5,4-d][2]benzazepine | 1.37 g | NC1N=C(C2=C(C3=C1C=NC=N3)C=CC=C2)C2=CC=CC=C2 | C18H14N4
reactant | Boc-L-phenylalanine | 5.17 mmole, 1.37 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole | 5.17 mmole, 0.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 5.17 mmole, 0.99 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5(R,S)-(2(S)-tert-butoxycarbonylamino-3-phenylpropanoylamino)-7-phenyl-5H-pyrimido[5,4-d]-[2]benzazepine | C(C)(C)(C)OC(=O)N[C@H](C(=O)NC1N=C(C2=C(C3=C1C=NC=N3)C=CC=C2)C2=CC=CC=C2)CC2=CC=CC=C2 | C32H31N5O3
